US06002008
A stirred mixture of 1.30 g of 4-hydroxy-6,7,8-trimethoxy-quinoline-3-carbonitrile, 10 ml of phosphorous oxychloride, and 1 drop of N,N-dimethylformamide was refluxed for 10 minutes and evaporated free of volatile matter. The residue was stirred with 20 ml of 5% methyl alcohol in ethyl acetate. The product was collected and dried to give 1.12 g of 4-chloro-6,7,8-trimethoxy-quinoline-3-carbonitrile as a solid, mp 161-163° C.; mass spectrum (EI, m/e): M 278.0452.

reactant | 4-hydroxy-6,7,8-trimethoxy-quinoline-3-carbonitrile | 1.30 g | OC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N | C13H12N2O4
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 4-chloro-6,7,8-trimethoxy-quinoline-3-carbonitrile | 1.12 g | ClC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N | C13H11ClN2O3
